US06706725B1
d) 1-{5-[2-(3,4-bis-Hydroxymethyl-phenyl)ethyl]-2-thienyl}-1-propanone
In a manner similar to that of Example 6(g), by reaction of 8.7 g (23 mmol) of (4-{2-[5-(2-ethyl-[1,3]dioxolan-2-yl)-2-thienyl]ethyl}-2-hydroxymethylphenyl)methanol with a solution of para-toluenesulphonic acid in an acetone/water mixture, the desired product is obtained in the form of a white powder (m=5.41 g; Y=71%).

reactant | (4-{2-[5-(2-ethyl-[1,3]dioxolan-2-yl)-2-thienyl]ethyl}-2-hydroxymethylphenyl)methanol | 23 mmol, 8.7 g | C(C)C1(OCCO1)C1=CC=C(S1)CCC1=CC(=C(C=C1)CO)CO | C19H24O4S
reactant | para-toluenesulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | acetone water | CC(=O)C.O
product | 1-{5-[2-(3,4-bis-Hydroxymethyl-phenyl)ethyl]-2-thienyl}-1-propanone | OCC=1C=C(C=CC1CO)CCC1=CC=C(S1)C(CC)=O | C17H20O3S
